US07465795B2
4-amino-8-(2,5-difluorophenyl)-N-propyl-cinnoline-3-carboxamide
Using method A, 4-amino-8-bromo-N-propyl-cinnoline-3-carboxamide (150 mg, 0.485 mmol) and 2,5-difluoro-phenylboronic acid (160 mg, 1.00 mmol) were reacted to afford the title compound (116 mg, 70% yield) as a white solid. 1H NMR (300 MHz, CDCl3) δ 8.54 (br, 1H), 7.97-7.91 (m, 1H), 7.83-7.69 (m, 2H), 7.27-7.05 (m, 3H), 3.46 (apparent quartet, J=7.0 Hz, 2H), 1.74-1.59 (m, 2H), 1.00 (t, J=7.0 Hz, 3H). MS APCI, m/z=343 (M+H). HPLC 2.01 min.

reactant | 4-amino-8-bromo-N-propyl-cinnoline-3-carboxamide | 0.485 mmol, 150 mg | NC1=C(N=NC2=C(C=CC=C12)Br)C(=O)NCCC | C12H13BrN4O
reactant | 2,5-difluoro-phenylboronic acid | 1.00 mmol, 160 mg | FC1=C(C=C(C=C1)F)B(O)O | C6H5BF2O2
product | 4-amino-8-(2,5-difluorophenyl)-N-propyl-cinnoline-3-carboxamide | 116 mg, 70% yield | NC1=C(N=NC2=C(C=CC=C12)C1=C(C=CC(=C1)F)F)C(=O)NCCC | C18H16F2N4O
